US06166212
Bis[1-(2-hydroxy-2-methylpropoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Glutarate
Aqueous hydrogen peroxide is added to a mixture of bis(1-oxyl-2,2,6,6-tetra-methylpieridin-4-yl) glutarate and ferrous chloride tetrahydrate in tert-butyl alcohol at 30-50° C. Excess peroxide is decomposed with aqueous sodium sulfite solution. The organic layer is concentrated and the crude product is purified by flash chromatography on silica gel to afford the title compound.

reactant | hydrogen peroxide | OO | H2O2
reactant | bis(1-oxyl-2,2,6,6-tetra-methylpieridin-4-yl) glutarate | C(CCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C23H42N2O6
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | Bis[1-(2-hydroxy-2-methylpropoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Glutarate | C(CCCC(=O)OC1CC(N(C(C1)(C)C)OCC(C)(C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCC(C)(C)O)(C)C | C31H58N2O8
